US09120793B2
(S)-3-{4-[2-(4-Cyano-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy]-phenyl}-hex-4-ynoic acid
To a solution of (S)-3-{4-[2-(4-cyano-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy]-phenyl}-hex-4-ynoic acid ethyl ester (0.130 g, 0.2795 mmol) in THF (10 mL) is added potassium trimethylsilanoate (0.143 g, 1.118 mmol) and the reaction mixture is stirred at room temperature for 2 hours. The reaction mixture is evaporated to dryness, the residue is washed with n-pentane, redissolved in water (5 mL) and is acidified with saturated citric acid solution (pH ˜5). The precipitated solid is filtered, washed with water, and dried to give the title compound as an off-white solid (0.113 g, 56.5%). LCMS m/z 437 (M+H)+.

reactant | (S)-3-{4-[2-(4-cyano-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy]-phenyl}-hex-4-ynoic acid ethyl ester | 0.2795 mmol, 0.130 g | C(C)OC(C[C@H](C#CC)C1=CC=C(C=C1)OCC=1C=CC=2N(C1)N=C(N2)C2=CC=C(C=C2)C#N)=O | C28H24N4O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-3-{4-[2-(4-Cyano-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy]-phenyl}-hex-4-ynoic acid | 0.113 g, 56.5% | C(#N)C1=CC=C(C=C1)C1=NN2C(C=CC(=C2)COC2=CC=C(C=C2)[C@H](CC(=O)O)C#CC)=N1 | C26H20N4O3
